US08791149B2
1-(3,6-dibromo-9H-carbazol-9-yl)-3-(pyridin-4-ylamino)propan-2-ol
The title compound of Example 41 was prepared as follows. LiOH.H2O (0.0157 g, 0.373 mmol) was added to 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)-3-(pyridin-4-yl)oxazolidin-2-one (0.0187 g, 0.0373 mmol) in a mixture of 428 μL THF and 48 μL H2O (v/v=9:1). The mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with 30 mL EtOAc and washed with brine 3×30 mL. The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which did not require purification (0.0013 g white solid, 7.3%).

reactant | LiOH.H2O | 0.373 mmol, 0.0157 g | O[Li].O
reactant | 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)-3-(pyridin-4-yl)oxazolidin-2-one | 0.0373 mmol, 0.0187 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1CN(C(O1)=O)C1=CC=NC=C1 | C21H15Br2N3O2
solvent | THF | 428 μL | C1CCOC1 | C4H8O
solvent | H2O | 48 μL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-(3,6-dibromo-9H-carbazol-9-yl)-3-(pyridin-4-ylamino)propan-2-ol | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CNC1=CC=NC=C1)O | C20H17Br2N3O
